US07396958B2
(2-amino-5-chlorophenyl)(2-chlorophenyl)methanol
To 20 g of (2-amino-5-chlorophenyl)(2-chlorophenyl)methanone dissolved in 80 ml of ethanol are introduced portionwise 8.6 g of sodium borohydride, and the mixture is left for 18 hours at room temperature. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated to give 21.63 g of the expected product.

reactant | (2-amino-5-chlorophenyl)(2-chlorophenyl)methanone | 20 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=C(C=CC=C1)Cl | C13H9Cl2NO
reactant | sodium borohydride | 8.6 g | [BH4-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-amino-5-chlorophenyl)(2-chlorophenyl)methanol | 21.63 g | NC1=C(C=C(C=C1)Cl)C(O)C1=C(C=CC=C1)Cl | C13H11Cl2NO
